US06340759B1
(212-1) 2-(2-Allylphenoxy)ethanol
2-Allylphenol (5.066 g) was dissolved in N,N-dimethylformamide (70 ml), followed by the addition of methyl 2-bromoacetate (6.931 g) and potassium carbonate (7.88 g), and the resulting mixture was stirred at 100° C. overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was dissolved in tetrahydrofuran (40 ml), followed by the addition of lithium aluminium hydride (1.442 g) in small portions under ice-cooling. The resulting mixture was stirred for 5 min. To the reaction mixture were sequentially added water (1.5 ml), 5N sodium hydroxide (1.5 ml) and water (4.5 ml), and the resulting insoluble matters were filtered off through Celite. The resulting filtrate was partitioned between ethyl acetate and water. The organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by (NH) silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a colorless oil (5.248 mg, yield; 76%).

reactant | 2-Allylphenol | 5.066 g | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | methyl 2-bromoacetate | 6.931 g | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 7.88 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 2-(2-Allylphenoxy)ethanol | 5.248 mg, yield; 76% | C(C=C)C1=C(OCCO)C=CC=C1 | C11H14O2
